### PR TITLE
[Merged by Bors] - chore(NumberTheory/MahlerMeasure): turn `BoxPoly` notation into a def

### PR DESCRIPTION
**Pull request by vihdzp**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/MahlerMeasure.lean [hunk 1]
```diff
@@ -50,28 +50,21 @@ section Northcott
...
-  let e : BoxPoly ≃ Icc (⌈B₁ ·⌉) (⌊B₂ ·⌋) := {
-    toFun p := ⟨toFn (n + 1) p, by
-      have prop := p.property.2
-      simpa using ⟨fun i ↦ ceil_le.mpr (prop i).1, fun i ↦ le_floor.mpr (prop i).2⟩⟩
-    invFun p := ⟨ofFn (n + 1) p, by
-      refine ⟨Nat.le_of_lt_succ <| ofFn_natDegree_lt (Nat.le_add_left 1 n) p.val, fun i ↦ ?_⟩
-      have prop := mem_Icc.mp p.property
+private theorem card_eq_of_natDegree_le_of_coeff_le :
+    Set.ncard {p : ℤ[X] | p.natDegree ≤ n ∧ ∀ i, B₁ i ≤ p.coeff i ∧ p.coeff i ≤ B₂ i} =
+      ∏ i, (⌊B₂ i⌋ - ⌈B₁ i⌉ + 1).toNat := by
```
Comment (jcommelin) [inline Mathlib/NumberTheory/MahlerMeasure.lean]: @fbarroero Do you agree that this is auxiliary?
Or do you think this lemma might be useful outside this file?

**Review by jcommelin — CHANGES_REQUESTED** [review]

File: Mathlib/NumberTheory/MahlerMeasure.lean (hunk 1 above)
Comment (fbarroero) [reply Mathlib/NumberTheory/MahlerMeasure.lean]: In my opinion this can be useful outside of this file.

Comment (vihdzp) [reply Mathlib/NumberTheory/MahlerMeasure.lean]: Oh, that's good to know. If we expect future use of it, what do you think about turning `BoxPoly` into a `def`, then?

Comment (fbarroero) [reply Mathlib/NumberTheory/MahlerMeasure.lean]: Yes, it makes sense! Thanks!

Comment (vihdzp) [reply Mathlib/NumberTheory/MahlerMeasure.lean]: I've updated the PR, please let me know if this is any better!

Comment (fbarroero) [reply Mathlib/NumberTheory/MahlerMeasure.lean]: Yes! Thanks!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by MichaelStollBayreuth** [comment]
@jcommelin tried to merge this, but it currently has a merge conflict, so
maintainer delegate?
